US07189750B2
Preparation of 2-(2,4-dichloro-phenyl)-N-[4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-yl]-acetamide (Pet-162)
Pet-162 was prepared according to the general procedure described hereinabove and the procedure described above for the preparation of Pet-154, using (2,4-dichloro-phenyl)-acetic acid and 4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-ylamine (Pet-10) as the starting materials, in an overall yield of 69%.

reactant | (2,4-dichloro-phenyl)-acetic acid | ClC1=C(C=CC(=C1)Cl)CC(=O)O | C8H6Cl2O2
reactant | 4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-ylamine | CC=1N=C(SC1CCO[N+](=O)[O-])N | C6H9N3O3S
product | 2-(2,4-dichloro-phenyl)-N-[4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-yl]-acetamide | yield of 69% | ClC1=C(C=CC(=C1)Cl)CC(=O)NC=1SC(=C(N1)C)CCO[N+](=O)[O-] | C14H13Cl2N3O4S
